US08866135B2
In the atmosphere of argon, 15.2 g of 2′-fluoro-2,3-dimethoxybiphenyl-4-boronic acid, 16.5 g of 2-fluoro-5-bromoiodobenzene, 1.27 g of tetrakistriphenylphosphine palladium (0), 180 mL of toluene and 90 mL of an aqueous 2M sodium carbonate solution were placed in a flask. The resulting solution was stirred with heating under reflux for 8 hours. After cooling to room temperature, the reaction solution was extracted with toluene. An aqueous phase was removed, and an organic phase was washed with saturated saline. The organic phase was dried with magnesium sulfate, and concentrated. Residues were purified by means of silica gel column chromatography, whereby 17.8 g (yield: 80%) of 5-bromo-2-fluoro-2′,3′-dimethoxy-2″-fluoro-p-terphenyl was obtained.

reactant | 2′-fluoro-2,3-dimethoxybiphenyl-4-boronic acid | 15.2 g | FC1=C(C=CC=C1)C1=C(C(=C(C=C1)B(O)O)OC)OC | C14H14BFO4
reactant | 2-fluoro-5-bromoiodobenzene | 16.5 g | FC1=C(C=C(C=C1)Br)I | C6H3BrFI
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 180 mL | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-2-fluoro-2′,3′-dimethoxy-2″-fluoro-p-terphenyl | 17.8 g, yield: 80% | BrC=1C=CC(=C(C1)C1=C(C(=C(C=C1)C1=C(C=CC=C1)F)OC)OC)F | C20H15BrF2O2
